US09447035B2
Cystamine dihydrochloride (68 mg, 0.301 mmol) and DIEA (110 μL, 2.1 eq.) were dissolved in DMF (10 mL), followed by addition of NHS-fluorescein, a mixture of 5- and 6-carboxyfluorescein (300 mg, 0.634 mmol) and the resulting reaction mixture was stirred overnight at room temperature. Then it was diluted with ethyl acetate and washed three times with water and one time with brine. The extract was dried over anhydrous sodium sulfate, concentrated under reduced pressure, redissolved in small amount of methanol and ethyl acetate, and then triturated with diethyl ether to obtain 140 mg of fluorescein-cystamine adduct as a bright orange solid.

reactant | Cystamine dihydrochloride | 0.301 mmol, 68 mg | Cl.Cl.NCCSSCCN
reactant | DIEA | 110 μL, 2.1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | NHS-fluorescein | C1CC(=O)N(C1=O)OC(=O)C2=CC=CC=C2C3=C4C=CC(=O)C=C4OC5=C3C=CC(=C5)O | C24H15NO7
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | fluorescein cystamine | 140 mg | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O.NCCSSCCN | InChI=1S/C20H12O5.C4H12N2S2/c21-11-5-7-15-17(9-11)25-18-10-12(22)6-8-16(18)19(15)13-3-1-2-4-14(13)20(23)24;5-1-3-7-8-4-2-6/h1-10,21H,(H,23,24);1-6H2
